US07968572B2
Methyl (2Z)-3-[(4-chloro-2,6-dimethylphenyl)amino]-2-butenoate
To a suspended solution of 4-chloro-2,6-dimethylaniline (24.0 g) in toluene (300 mL) were added methyl acetoacetate (17.9 g) and p-toluenesulfonic acid monohydrate (293 mg) and the mixture was heated to reflux and stirred for 4 hours. The reaction mixture was concentrated. To the obtained residue was added diisopropyl ether and the insoluble matter which was precipitated was removed. The filtrate was concentrated. The obtained residue was purified by preparative medium pressure liquid chromatography W-prep 2XY (column: main column 3L, inject column L; automatic condition setting: hexane:ethyl acetate=9:1, preparative isolation mode GR) to give the title compound (24.7 g) having the following physical data.

reactant | 4-chloro-2,6-dimethylaniline | 24.0 g | ClC1=CC(=C(N)C(=C1)C)C | C8H10ClN
reactant | methyl acetoacetate | 17.9 g | C(CC(=O)C)(=O)OC | C5H8O3
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 293 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Methyl (2Z)-3-[(4-chloro-2,6-dimethylphenyl)amino]-2-butenoate | 24.7 g | ClC1=CC(=C(C(=C1)C)N\C(=C/C(=O)OC)\C)C | C13H16ClNO2
